US08877759B2
dioxomanganese (4.455 g, 886.4 μL, 51.24 mmol) was added to a stirred solution of tert-butyl N-[2-fluoro-1-[4-(hydroxymethyl)phenyl]ethyl]carbamate (1.15 g, 4.270 mmol) in dichloromethane (100 mL) and the reaction allowed to stir at ambient temperature for 65 hours. The reaction mixture was filtered through celite and washed with dichloromethane. The filtrate was concentrated in vacuo to give tert-butyl N-[2-fluoro-1-(4-formylphenyl)ethyl]carbamate as a colourless oil (930 mg, 82%). 1H NMR (400.0 MHz, DMSO-d6) δ 1.37 (s, 9H), 4.43-4.46 (m, 1H), 4.54-4.58 (m, 1H), 4.95-5.05 (m, 1H), 7.60 (d, 2H), 7.81 (d, 1H), 7.90 (d, 2H) and 10.00 (s, 1H) ppm; LC/MS m/z 212.0 [M+H]+.

reactant | tert-butyl N-[2-fluoro-1-[4-(hydroxymethyl)phenyl]ethyl]carbamate | 4.270 mmol, 1.15 g | FCC(C1=CC=C(C=C1)CO)NC(OC(C)(C)C)=O | C14H20FNO3
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
catalyst | dioxomanganese | 51.24 mmol, 886.4 μL, 4.455 g | O=[Mn]=O
product | tert-butyl N-[2-fluoro-1-(4-formylphenyl)ethyl]carbamate | 930 mg, 82% | FCC(C1=CC=C(C=C1)C=O)NC(OC(C)(C)C)=O | C14H18FNO3
